US04529732
N-Propyl-cis-2-[4-(5-phenyl-2-pentyloxy)-2-hydroxyphenyl]-4-piperidinol
Acylation of 2-[4-(5-phenyl-2-pentyloxy)-2-benzyloxyphenyl]-4-piperidinol with propionic anhydride by the method of Example 8, followed by lithium aluminum hydride reduction of the resulting N,O-dipropionyl intermediate by the method of Example 9, Part A, and finally, debenzylation by the method of Example 9, Part B, provides the title compound in like manner.

reactant | 2-[4-(5-phenyl-2-pentyloxy)-2-benzyloxyphenyl]-4-piperidinol | C1(=CC=CC=C1)CCCC(C)OC1=CC(=C(C=C1)C1NCCC(C1)O)OCC1=CC=CC=C1 | C29H35NO3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-Propyl-cis-2-[4-(5-phenyl-2-pentyloxy)-2-hydroxyphenyl]-4-piperidinol | C(CC)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)OC(C)CCCC1=CC=CC=C1)O | C25H35NO3
